US08124606B2
Compound 69: (S)-3-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one
(S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (100 mg, 0.429 mmol) was suspended in propionitrile (1 mL) and (cyanomethyl)trimethylphosphonium iodide (125.0 mg, 0.51 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (225 ul, 1.3 mmol). To the stirred mixture was then added 1-(4-chlorophenyl)piperazine hydrochloride (110 mg, 0.472 mmol). The reaction was heated to 90° C. with stirring for 16 h. The reaction was then cooled to room temperature, diluted with EtOH (3 ml) and water (˜300 ul), then filtered. The solids were collected and refluxed in ethanol (5 mL) for 2 h. The suspension was cooled back to room temperature and filtered. The precipitate was filtered off and dried in vacuum to afford the title compound (67.3 mg, 43%) as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.47 (s, 1H), 7.65 (d, J=2.0 Hz, 1H), 7.21 (d, J=9.1 Hz, 2H), 6.97 (d, J=2.0 Hz, 1H), 6.88-6.95 (m, 2H), 4.45-4.55 (m, 1H), 3.83 (dd, J=11.4, 2.8 Hz, 1H), 3.35 (s, 2H), 3.05-3.16 (m, 5H), 2.60 (td, J=12.6, 2.5 Hz, 1H), 2.38-2.48 (m, 3H), 2.03 (d, J=12.6 Hz, 1H), 1.77-1.91 (m, 1H), 1.63 (d, J=12.6 Hz, 1H), 1.33-1.56 (m, 3H). [M+H] calc'd for C22H26ClN5O, 412. found, 412.

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.429 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.51 mmol, 125.0 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.3 mmol, 225 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(4-chlorophenyl)piperazine hydrochloride | 0.472 mmol, 110 mg | Cl.ClC1=CC=C(C=C1)N1CCNCC1
solvent | propionitrile | 1 mL | C(CC)#N | C3H5N
solvent | EtOH | 3 ml | CCO | C2H6O
solvent | water | ˜300 ul | O | H2O
product | (S)-3-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 67.3 mg, 43% | ClC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C22H26ClN5O
